US04921852
A suspension of (2S,4R)-4-methanesulfonyloxy-2-(4-methylsemicarbazidocarbonyl)-1-(4-nitrobenzyloxycarbonyl)pyrrolidine (2.00 g) in concentrated sulfuric acid (20 ml) was stirred at 0°-5° C. for 3 hours. The reaction mixture was poured into ice-water (200 ml), adjusted to pH 9 with concentrated ammonia water, extracted with dichloromethane (100 ml), dried over magnesium sulfate and concentrated under reduced pressure to give a syrup. The syrup was subjected to a column chromatography on silica gel (20 g) and eluted with a mixture of methanol and chloroform (1:99,V/V) to give (2S,4R)-4-methanesulfonyloxy-2-{5-(methylamino)-1,3,4-thiadiazol-2-yl}-1-(4-nitrobenzyloxycarbonyl)pyrrolidine (1.94 g).

reactant | (2S,4R)-4-methanesulfonyloxy-2-(4-methylsemicarbazidocarbonyl)-1-(4-nitrobenzyloxycarbonyl)pyrrolidine | 2.00 g | CS(=O)(=O)O[C@@H]1C[C@H](N(C1)C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])C(=O)NNC(=O)NC | C16H21N5O9S
reactant | ammonia water | O.N
reactant | sulfuric acid | 20 ml | S(O)(O)(=O)=O | H2O4S
product | (2S,4R)-4-methanesulfonyloxy-2-{5-(methylamino)-1,3,4-thiadiazol-2-yl}-1-(4-nitrobenzyloxycarbonyl)pyrrolidine | 1.94 g | CS(=O)(=O)O[C@@H]1C[C@H](N(C1)C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])C=1SC(=NN1)NC | C16H19N5O7S2
